US07288537B2
A solution of (S)-3-tert-butoxycarbonylamino-4-hydroxy-butyric acid benzyl ester (1.34 g, 4.37 mmol) (prepared using the method of Rodriguez, Marc; Linares, Muriel; Doulut, Sylvie; Heitz, Annie; Martinez, Jean; Tetrahedron Lett. (1991), 32(7), 923-6) and imidazole (0.88 g, 13.01 mmol in dimethylformamide (7 ml) is treated with tertbutyldiphenylsilyl chloride (1.69 ml, 6.5 mmol). The reaction mixture is stirred together at room temperature for 1 hour, then diluted with water and extracted into ethylacetate. The ethylacetate phase is dried over MgSO4 and evaporated. The crude product is purified by flash silica chromatography (elution with 1:1 ethylacetate/hexane) to afford (S)-3-tert-butoxycarbonylamino-4-(tert-butyl-diphenyl-silanyloxy)-butyric acid benzyl ester. [M-BOC] 448.0.

reactant | (S)-3-tert-butoxycarbonylamino-4-hydroxy-butyric acid benzyl ester | 4.37 mmol, 1.34 g | C(C1=CC=CC=C1)OC(C[C@@H](CO)NC(=O)OC(C)(C)C)=O | C16H23NO5
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | tertbutyldiphenylsilyl chloride | 6.5 mmol, 1.69 ml | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (S)-3-tert-butoxycarbonylamino-4-(tert-butyl-diphenyl-silanyloxy)-butyric acid benzyl ester | C(C1=CC=CC=C1)OC(C[C@@H](CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)NC(=O)OC(C)(C)C)=O | C32H41NO5Si
